US06511965B2
2-(4-Methoxyphenyl)-4-(R)-undecyl-[1,3]dioxane
p-Toluenesulfonic acid (152 mg, 0.80 mmol) and 4-methoxybenzaldehyde dimethylacetal (2.9 g, 16.0 mmol) was added to a solution of (R)-1,3-dihydroxytetradecane (1.85 g, 8.0 mnuol) in dimethylformamide (20 ml) and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure. The residue was diluted with ethyl acetate. The ethyl acetate layer was successively washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using cyclohexane:ethyl acetate=9:1 as the eluant to give the desired product (2.78 g, yield 99%).

reactant | p-Toluenesulfonic acid | 0.80 mmol, 152 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 4-methoxybenzaldehyde dimethylacetal | 16.0 mmol, 2.9 g | COC(C1=CC=C(C=C1)OC)OC | C10H14O3
reactant | (R)-1,3-dihydroxytetradecane | 1.85 g | OCC[C@@H](CCCCCCCCCCC)O | C14H30O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(4-Methoxyphenyl)-4-(R)-undecyl-[1,3]dioxane | 2.78 g, yield 99% | COC1=CC=C(C=C1)C1OCC[C@H](O1)CCCCCCCCCCC | C22H36O3
